US03989727
When an equimolar mixture of diphenyl 2-napthylphosphonite, 4-bromo-2-fluorobenzaldehyde and 1,3-dimethylurea in toluene is warmed at reflux for 1 hour, followed by cooling in an ice bath, a white solid product forms. A portion of this solid is dissolved in ethanol and an equivalent amount of sodium hydroxide (10 molar solution) is added dropwise to the stirred solution. The reaction mixture is allowed to evaporate to dryness, and the residue is washed with ether, giving a crude sodium phosphinate salt. This salt is stirred in distilled water as slightly more than one equivalent of trifluoroacetic acid is added. The product is separated by filtration and then washed with water and recrystallized, giving [α-(1,3-dimethylureido)-4-bromo-2-fluorobenzyl]-2-naphthylphosphinic acid.

reactant | diphenyl 2-napthylphosphonite | C1=C(C=CC2=CC=CC=C12)P(OC1=CC=CC=C1)OC1=CC=CC=C1 | C22H17O2P
reactant | 4-bromo-2-fluorobenzaldehyde | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 1,3-dimethylurea | CNC(=O)NC | C3H8N2O
reactant | sodium hydroxide | 10 molar | [OH-].[Na+]
reactant | trifluoroacetic acid | more than one equivalent | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | [α-(1,3-dimethylureido)-4-bromo-2-fluorobenzyl]-2-naphthylphosphinic acid | CN(C(=O)NC)C(C1=C(C=C(C=C1)Br)F)P(O)(=O)C1=CC2=CC=CC=C2C=C1 | C20H19BrFN2O3P
